US03971783
6,7-Dimethoxy-4-(N-methyl-2-[2-pyridyl]prop-1-ylamino)quinazoline
Reaction of 6,7-dimethoxy-4-chloroquinazoline with 2-(1-[N-methylamino]prop-2-yl)pyridine, according to the procedure of Example I, afforded the title compound, isolated as its dihydrochloride trihydrate, m.p. 235°C.

reactant | 6,7-dimethoxy-4-chloroquinazoline | COC=1C=C2C(=NC=NC2=CC1OC)Cl | C10H9ClN2O2
reactant | 2-(1-[N-methylamino]prop-2-yl)pyridine | CNCC(C)C1=NC=CC=C1 | C9H14N2
product | 6,7-Dimethoxy-4-(N-methyl-2-[2-pyridyl]prop-1-ylamino)quinazoline | COC=1C=C2C(=NC=NC2=CC1OC)N(C)CC(C)C1=NC=CC=C1 | C19H22N4O2
